US06821960B2
Commercially available 2,2-difluorosuccinic acid (8.0 g, 51.9 mmol) was dissolved in THF and cooled on ice before addition of 1,3-dicyclohexylcarbodiimide (11.8 g, 57.2 mmol). The mixture was stirred at room temperature for 3 hours, cooled and filtered. The filtrate was concentrated in vacuo. The residue was stirred with methanol (50 ml) for 3 hours at room temperature and then solvents were removed in vacuo to afford the crude ester as an oil (8.4 g). The oil was purified by column chromatography on silica gel column and elution with a 0-100% ethyl acetate/toluene gradient to afford 2,2-difluorosuccinic acid 1-methyl ester as a colorless oil (6.8 g).

reactant | 2,2-difluorosuccinic acid | 51.9 mmol, 8.0 g | FC(C(=O)O)(CC(=O)O)F | C4H4F2O4
reactant | 1,3-dicyclohexylcarbodiimide | 57.2 mmol, 11.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | C1CCOC1 | C4H8O
product | 2,2-difluorosuccinic acid 1-methyl ester | 6.8 g | COC(C(CC(=O)O)(F)F)=O | C5H6F2O4
